US06258824B1
46A. 4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-(4-methoxy-benzylamino)-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one
To [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (1.08 g, 2.21 mmol) in toluene (8.5 ml) under an atmosphere of dry N2 was added thionyl chloride (1.61 ml, 22.06 mmol) dropwise. The reaction mixture was heated at 85° C. for 15 hours. Solvent and the excess thionyl chloride were removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum. The resulting solid was dissolved in THF (10 ml) and to this solution at −78° C. was added p-methoxybenzylamine (1.44 ml, 11.03 mmol) in THF (2 ml). The reaction mixture was stirred at −78° C. for 3 hours under an atmosphere of N2 for 3 hours. After removal of THF, the product mixture was partitioned between CHCl3 and water. The organic layer was washed, dried over MgSO4 and concentrated under vacuum to give the crude product. It was chromatographed on silica gel with MeOH—CHCl3—NH4OH (2:98:0.1) as eluents to afford the titled compound of Example 46A (0.482 g, 52% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 2.21 mmol, 1.08 g | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl)OC | C26H20Cl2N4O2
reactant | thionyl chloride | 22.06 mmol, 1.61 ml | S(=O)(Cl)Cl | Cl2OS
reactant | p-methoxybenzylamine | 11.03 mmol, 1.44 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | toluene | 8.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-(4-methoxy-benzylamino)-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one | 0.482 g, 52% yield | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C=1N(C=NC1)C)(NCC1=CC=C(C=C1)OC)C=1C=NC(=CC1)Cl)=O | C33H27Cl2N5O2
